US04213901
The procedure described in Example 2 is repeated except that 110 g (1.13 mols) of N-isopropylidene-propenylamine [prepared by reacting acetone with allylamine, cf. B. A. Kazanskii et al., Zhurnal Organicheskoi Khimii, Volume 6, No. 11, 2197-9 (1970)] and 108 g (2 mols) of 1,3-butadiene are used. Distillation yields 187.0 g (0.91 mol) of 3,12,12-trimethyl-1-aza-1,5,9-cyclododecatriene; yield 80.5% of theory, based on converted N-isopropylidene-propenylamine (conversion 100%); boiling point 55° C./0.03 mm Hg; nD20 =1.4895.

reactant | N-isopropylidene-propenylamine | 1.13 mols, 110 g | C(C)(C)=NC=CC | C6H11N
reactant | allylamine | C(C=C)N | C3H7N
reactant | 1,3-butadiene | 2 mols, 108 g | C=CC=C | C4H6
reactant | acetone | CC(=O)C | C3H6O
product | 3,12,12-trimethyl-1-aza-1,5,9-cyclododecatriene | 0.91 mol, 187.0 g, yield 80.5% | CC1C=NC(CC=CCCC=CC1)(C)C | C14H23N
